US07592358B2
21.1b. 3-chloro-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine
The product was obtained analogously to Example 7.1b starting from 2-bromo-3-chloro-5-(4-chlorophenyl)pyridine and trimethylsilylacetylene. Yield: 0.57 g (quant. yield); C16H15Cl2NSi (M=320.288); calc.: molpeak (M+H)+: 320/322/324 (2Cl); found: molpeak (M+H)+: 320/322/324 (2Cl); HPLC-MS: 8.02 minutes (method B).

reactant | 2-bromo-3-chloro-5-(4-chlorophenyl)pyridine | BrC1=NC=C(C=C1Cl)C1=CC=C(C=C1)Cl | C11H6BrCl2N
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | 3-chloro-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine | quant. yield | ClC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C[Si](C)(C)C | C16H15Cl2NSi
